US06919347B2
A dry, 250 mL round bottom flask was charged with 0.27 g (1.01 mmol) of triphenylphosphine, 0.73 g (11.15 mmol) of potassium cyanide, 0.22 g (3.38 mmol) of zinc dust, and 0.38 g (0.51 mmol) of bis(triphenylphosphine)nickel (II) bromide. The flask was then purged with argon, and an air-free solution of 3 g (10.14 mmol) of 7-(((trifluoromethyl)sulfonyl)oxy)-4-chromanone [Koch et al., J. Org. Chem. 59, 1216 (1994)] in 40 ml of dry acetonitrile was introduced by syringe. The solution was then heated at 60° C. for 3 hours, under argon. After cooling the solution to room temp, the solution was added to an equal volume of water. The organic layer was extracted out, and the aqueous layer was extracted several times with ethyl acetate and ether. The combined organic phase was dried over magnesium sulfate, filtered and evaporated. The crude mixture was chromatographed using a 20% ethyl acetate/hexane solvent system which yielded 1.3 g (76%) of 7-cyano-4-chromanone as a white solid.

reactant | triphenylphosphine | 1.01 mmol, 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium cyanide | 11.15 mmol, 0.73 g | [C-]#N.[K+]
reactant | 7-(((trifluoromethyl)sulfonyl)oxy)-4-chromanone | 10.14 mmol, 3 g | FC(S(=O)(=O)OC1=CC=C2C(CCOC2=C1)=O)(F)F | C10H7F3O5S
reactant | water | O | H2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | zinc | 3.38 mmol, 0.22 g | [Zn] | Zn
catalyst | bis(triphenylphosphine)nickel (II) bromide | 0.51 mmol, 0.38 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Ni+2].[Br-].[Br-]
product | 7-cyano-4-chromanone | 1.3 g, 76% | C(#N)C1=CC=C2C(CCOC2=C1)=O | C10H7NO2
